US09079853B2
5-chloro-1-isopentylindoline-2,3-dione
This compound was prepared in a similar method as 1-propylindoline-2,3-dione by reacting commercially available 5-chloro isatin (purchase from Fisher Scientific) with commercially available 1-bromo-3-methylbutane (purchase from Fisher Scientific). 1H NMR δ 7.57 (m, 2H), 6.85 (d, 1H), 3.73 (t, 2H), 1.57 (m, 3H), 1.00 (d, 6H).

reactant | 1-propylindoline-2,3-dione | C(CC)N1C(C(C2=CC=CC=C12)=O)=O | C11H11NO2
reactant | 5-chloro isatin | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | 1-bromo-3-methylbutane | BrCCC(C)C | C5H11Br
product | 5-chloro-1-isopentylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CCC(C)C)=O)=O | C13H14ClNO2
